US05001125
A mixture of 3.2 parts of 3-chloro-6-(methylthio)pyridazine, 3.14 parts of 1,2,3,6-tetrahydro-4-(3-methylphenyl)pyridine hydrochloride, 5.3 parts of sodium carbonate and 80 parts of 1-butanol was stirred for 48 hours at reflux temperature. The reaction mixture was evaporated. Water was added. The product was extracted with trichloromethane. The extract was dried, filtered and evaporated. The residue was purified by column chromatography over silica gel using a mixture of trichloromethane and methanol (98:2 by volume) as eluent. The pure fractions were collected and the eluent was evaporated. The residue was crystallized from 2-propanol. The product was filtered off and dried, yielding 0.8 parts (18%) of 3-[3.6-dihydro-4-(3-methylphenyl)-1(2H)-pyridinyl]-6-(methylthio)pyridazine; mp. 129.8° C. (compound 214).

reactant | 3-chloro-6-(methylthio)pyridazine | ClC=1N=NC(=CC1)SC | C5H5ClN2S
reactant | 1,2,3,6-tetrahydro-4-(3-methylphenyl)pyridine hydrochloride | Cl.CC=1C=C(C=CC1)C=1CCNCC1
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | 1-butanol | C(CCC)O | C4H10O
product | 3-[3.6-dihydro-4-(3-methylphenyl)-1(2H)-pyridinyl]-6-(methylthio)pyridazine | 18% | CC=1C=C(C=CC1)C=1CCN(CC1)C=1N=NC(=CC1)SC | C17H19N3S
